US06953806B2
2.05 g (6.71 mmol) trans-[4-(4-benzyloxy-butoxy)-cyclohexylmethyl]-methyl-amine were dissolved in 15 ml of methanol, cooled to −10° C. and treated at once with 1.61 g (7.38 mmol) di-tert-butyl-dicarbonate. Then, the reaction mixture was stirred at −10° C. for 30 minutes and at room temperature for 2 hours. Subsequently, 2 ml of water and 1 ml of triethylamine were added and the reaction mixture evaporated under reduced pressure. It was then poured into 50 ml of an ice/water mixture and extracted 3 times with 50 ml of dichloromethane. The combined dichloromethane phases were dried over magnesium sulfate and evaporated under reduced pressure. The residue formed was chromatographed on silica gel with a 9:1 v/v mixture of dichloromethane and ether as the eluent giving 2.15 g (79%) trans-[4-(4-benzyloxy-butoxy)-cyclohexylmethyl]-methyl-carbamic acid tert-butyl ester as colorless viscous oil, MS: 406 (MH+).

reactant | trans-[4-(4-benzyloxy-butoxy)-cyclohexylmethyl]-methyl-amine | 6.71 mmol, 2.05 g | C(C1=CC=CC=C1)OCCCCO[C@@H]1CC[C@H](CC1)CNC | C19H31NO2
reactant | di-tert-butyl-dicarbonate | 7.38 mmol, 1.61 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 2 ml | O | H2O
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 15 ml | CO | CH4O
product | trans-[4-(4-benzyloxy-butoxy)-cyclohexylmethyl]-methyl-carbamic acid tert-butyl ester | 2.15 g, 79% | C(C)(C)(C)OC(N(C)C[C@@H]1CC[C@H](CC1)OCCCCOCC1=CC=CC=C1)=O | C24H39NO4
